US06130217
1-(4-Benzhydryl-piperazin-1-yl)-3-(2-benzothiazol-2-yl-phenoxy)propan-2-ol
A solution of 1-benzhydryl-piperazine (891 mg, 3.53 mmol) and 2-[2-(oxiran-2-yl-methoxy)phenyl]benzothiazole (1000 mg, 3.53 mmol) in EtOH (7 mL) were refluxed under N2 (g) for about 16 hours. The mixture was concentrated in vacuo to a white foam and flash chromatographed on silica (35% EtOAc/hexanes) to afford 807 mg (42%) of the free base of the product as a white solid. mp 152-155° C.; LSIMS m/z 536 (MH+).

reactant | 1-benzhydryl-piperazine | 3.53 mmol, 891 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 2-[2-(oxiran-2-yl-methoxy)phenyl]benzothiazole | 3.53 mmol, 1000 mg | O1C(C1)COC1=C(C=CC=C1)C=1SC2=C(N1)C=CC=C2 | C16H13NO2S
solvent | EtOH | 7 mL | CCO | C2H6O
product | 1-(4-Benzhydryl-piperazin-1-yl)-3-(2-benzothiazol-2-yl-phenoxy)propan-2-ol | 807 mg, 42% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC(COC1=C(C=CC=C1)C=1SC2=C(N1)C=CC=C2)O | C33H33N3O2S
